US06627629B2
Part A: Preparation of (R)-4-Benzyl-3-[5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-oxazolidin-2-one
To a stirring solution of pivaloyl chloride (3.39 mL, 27.5 mmol) and triethylamine (4.39 mL, 31.4 mmol) in dry ether in a flame-dried round bottom flask under N2 at 0° C. was added 5-(tert-butyl-diphenyl-silanyloxy)-pentanoic acid prepared according to procedures of Barrett, A. G. M. ; et al J. Org. Chem. (1989), 54(14), 3321 (9.35 g, 26.2 mmol). The reaction was warmed to room temperature, and, after 25 min, the white precipitate was removed by filtration. The filtrate was concentrated in vacuo to a colorless oil. The oil was dissolved in dry ether (6 mL) and added via cannula to a solution of lithiated oxazolidinone prepared by treating a solution of oxazolidinone (4.64 g, 26.2 mmol) in dry THF (150 mL) in a flame-dried round bottom flask under N2 at −78° C. with n-butyllithium in hexane (22.4 mL, 1.17 M) until the solution became pale yellow in color. The reaction was stirred for 40 min and then poured into 1N aqueous hydrogen chloride. The reaction was extracted with ethyl acetate (3×150 mL). The organic layers were combined, washed with saturated aqueous sodium bicarbonate, brine, dried over sodium sulfate, and concentrated in vacuo to a colorless oil. The oil was purified by flash chromatography (SiO2, 5-30% ethyl acetate in hexanes) to yield 10.9 g (80.7%) of a white solid. MS (APCI), m+/z: (M+H)+=516.5.

reactant | pivaloyl chloride | 27.5 mmol, 3.39 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 31.4 mmol, 4.39 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(tert-butyl-diphenyl-silanyloxy)-pentanoic acid | C(C)(C)(C)[Si](OCCCCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H28O3Si
reactant | oxazolidinone | 26.2 mmol, 4.64 g | O1C(NCC1)=O | C3H5NO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.17 M, 22.4 mL | CCCCCC | C6H14
product | (R)-4-Benzyl-3-[5-(tert-butyl-diphenyl-silanyloxy)-pentanoyl]-oxazolidin-2-one | 10.9 g, 80.7% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CCCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C31H37NO4Si
